US04202978
N-(4-Hydroxyphenyl)-4-phenyl-1-piperazineundecanamide
A solution of 66.8 g (0.187 mol) of 11-bromo-N-(4-hydroxyphenyl)undecanamide, 30.3 g (0.187 mol) of 1-phenylpiperazine and 27.0 ml (19.6 g, 0.194 mol) of triethylamine in 600 ml of ethanol was heated under reflux overnight and then cooled. The resulting solid was shaken with sodium bicarbonate solution and dichloromethane and the suspension was filtered. The solid was recrystallized from 95% ethanol to give the end product as colorless crystals, mp 160.5°-162.5°.

reactant | 11-bromo-N-(4-hydroxyphenyl)undecanamide | 0.187 mol, 66.8 g | BrCCCCCCCCCCC(=O)NC1=CC=C(C=C1)O | C17H26BrNO2
reactant | 1-phenylpiperazine | 0.187 mol, 30.3 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 0.194 mol, 27.0 ml, 19.6 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-Hydroxyphenyl)-4-phenyl-1-piperazineundecanamide | OC1=CC=C(C=C1)NC(CCCCCCCCCCN1CCN(CC1)C1=CC=CC=C1)=O | C27H39N3O2
